US05106842
f. (±)-t-Butyl 2-[cis-3-benzyloxycarbonylamino-4-(2-(2-pyridylthiocarbonyl)ethyl)-2-oxoazetidin-1-yl]acetate
Dicyclohexylcarbodiimide (223 mg, 1.08 mmols) was added to a stirred, cooled (ice/H2O bath) solution of (±)-t-butyl 2-[cis-3-benzyloxycarbonylamino-4-(2-carboxyethyl)-2-oxoazetidin-1-yl]acetate (440 mg, 1.08 mmols) in methylene chloride (5 mL). The mixture was stirred for 3 minutes when the cooling bath was removed and when 2-mercaptopyridine (120 mg, 1.08 mmols) was added. The mixture was stirred for 1.25 hr and was then diluted with methylene chloride and filtered. The filtrate was sequentially washed with dilute aqueous NaHCO3, H2O, and saturated NaCl. The solution was concentrated and the residue crystallized from ethyl acetate-hexanes to afford the title compound (290 mg, 54% yield).

reactant | Dicyclohexylcarbodiimide | 1.08 mmols, 223 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (±)-t-butyl 2-[cis-3-benzyloxycarbonylamino-4-(2-carboxyethyl)-2-oxoazetidin-1-yl]acetate | 1.08 mmols, 440 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N([C@@H]1CCC(=O)O)CC(=O)OC(C)(C)C)=O | C20H26N2O7
reactant | 2-mercaptopyridine | 1.08 mmols, 120 mg | SC1=NC=CC=C1 | C5H5NS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-t-Butyl 2-[cis-3-benzyloxycarbonylamino-4-(2-(2-pyridylthiocarbonyl)ethyl)-2-oxoazetidin-1-yl]acetate | 290 mg, 54% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N([C@@H]1CCC(=S)C1=NC=CC=C1)CC(=O)OC(C)(C)C)=O | C25H29N3O5S
